US04578378
To a solution of diethyl malonate (6.1 ml) in N,N-dimethylformamide (30 ml) are added 60% sodium hydride (1.6 g) at 0° C. and, after 8 minutes, chloroacetamide (1.87 g). After stirring at room temperature for 3.5 hours, the mixture in neutralized with acetic acid and extracted with ethyl acetate. The extract is washed with water and concentrated to give 2,5-dioxopyrrolidine-3-carboxylic acid ethyl ester. Oil.

reactant | diethyl malonate | 6.1 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | chloroacetamide | 1.87 g | ClCC(=O)N | C2H4ClNO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,5-dioxopyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1C(NC(C1)=O)=O | C7H9NO4
